US05649537
A) N-[2-[(2-aminoethyl)amino]ethyl]-O-(4-nitrophenyl)methyl-D,L-serine t-butyl ester
A solution of 14 g of t-butyl 2-bromo-3-[(4-nitrophenyl)methoxy]propanoate (prepared according to the procedure described by P. L. Rings et al., Synth. Commun., 1993, 23, 2639) (0.0389 mol), in 30 ml of acetonitrile was added to a solution of 20 g of diethylenetriamine (0.19 mol) in 20 ml of acetonitrile kept at 0°-5° C. and under inert atmosphere. The solution was then heated to 35° C. for 4 h. The solvent was evaporated under vacuum and 100 ml of a NaCl saturated solution were added to the residue. The solution was extracted with Et2O; the organic phase was washed with H2O, dried and concentrated under vacuum to obtain 12 g of the desired product (0.031 mol).

reactant | t-butyl 2-bromo-3-[(4-nitrophenyl)methoxy]propanoate | 14 g | BrC(C(=O)OC(C)(C)C)COCC1=CC=C(C=C1)[N+](=O)[O-] | C14H18BrNO5
reactant | diethylenetriamine | 0.19 mol, 20 g | NCCNCCN | C4H13N3
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-[2-[(2-aminoethyl)amino]ethyl]-O-(4-nitrophenyl)methyl-D,L-serine t-butyl ester | 0.031 mol, 12 g, Yield: 80% | C(C)(C)(C)OC(C(NCCNCCN)COCC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H30N4O5
